US05688815
1.9 ml of 37% conc. HCl are poured over 0.19 g of 3-benzyloxy-1-(2-hydroxy-ethyl)-2-[hydroxy-(4-nitro-phenyl)-methyl]-1H-pyridin-4-one. The mixture is heated with stirring at 100° C. for 45 minutes. 20 ml of toluene are added and distillation is carried out at a bath temperature of 50° C. and under a pressure of 60 mbar using a rotary evaporator. The addition of toluene and the distillation are repeated four times. The crystalline residue is recrystallised from ethanol, yielding 3-hydroxy-1-(2-hydroxy-ethyl)-2-[hydroxy-(4-nitro-phenyl)-methyl]-1H-pyridin-4-one hydrochloride. Brown crystals, m.p.: from 204° C. with decomposition.

reactant | HCl | 1.9 ml | Cl | ClH
reactant | 3-benzyloxy-1-(2-hydroxy-ethyl)-2-[hydroxy-(4-nitro-phenyl)-methyl]-1H-pyridin-4-one | 0.19 g | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCO)C(C1=CC=C(C=C1)[N+](=O)[O-])O | C21H20N2O6
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-hydroxy-1-(2-hydroxy-ethyl)-2-[hydroxy-(4-nitro-phenyl)-methyl]-1H-pyridin-4-one hydrochloride | Cl.OC1=C(N(C=CC1=O)CCO)C(C1=CC=C(C=C1)[N+](=O)[O-])O | InChI=1S/C14H14N2O6.ClH/c17-8-7-15-6-5-11(18)14(20)12(15)13(19)9-1-3-10(4-2-9)16(21)22;/h1-6,13,17,19-20H,7-8H2;1H
